US07199239B2
[4-({(2-Methoxyethyl)[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetic acid
To a solution of ethyl [4-({(2-methoxyethyl)[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate (500 mg, 0.97 mmol) in THF (6 mL) and MeOH (6 mL) was added NaOH (2M; 3 mL) and the resultant solution stirred for 2 h at room temperature. The mixture was concentrated in vacuo, acidified with 2M HCl and extracted with CH2Cl2. The organic solution was dried (Na2SO4) and the solvent removed in vacuo to afford the title compound as a colourless oil (453 mg).

reactant | ethyl [4-({(2-methoxyethyl)[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetate | 0.97 mmol, 500 mg | COCCN(C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C)CC1=CC(=C(OCC(=O)OCC)C=C1)C | C29H32F3NO4
reactant | NaOH | 2M, 3 mL | [OH-].[Na+]
solvent | THF | 6 mL | C1CCOC1 | C4H8O
solvent | MeOH | 6 mL | CO | CH4O
product | [4-({(2-Methoxyethyl)[2-methyl-4′-(trifluoromethyl)-1,1′-biphenyl-3-yl]amino}methyl)-2-methylphenoxy]acetic acid | 453 mg | COCCN(C=1C(=C(C=CC1)C1=CC=C(C=C1)C(F)(F)F)C)CC1=CC(=C(OCC(=O)O)C=C1)C | C27H28F3NO4
